US04518597
5,7-Dichloro-6-[4-(4-methyl-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 5,7-dichloro-6-[4-(4-methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 5,7-dichloro-6-[4-(4-methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=C(C(=CC2=C1C(OC(N2)=O)(C)C)Cl)OCCCCSC2=CC=C(C=C2)C | C21H23Cl2NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 5,7-Dichloro-6-[4-(4-methyl-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=C(C(=CC2=C1C(OC(N2)=O)(C)C)Cl)OCCCCS(=O)C2=CC=C(C=C2)C | C21H23Cl2NO4S
